Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Trauma:  fall from chair
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with a history of dementia who presented to  ED 
as a transfer with left chest wall trauma and abdominal pain s/p 
fall as a transfer from ___. The patient is a poor 
historian. He states that he fell from a
chair 2 days ago. He presented to ___ today with left 
lower chest wall pain and LUQ pain, with a large overlying area 
of ecchymosis. CT torso at ___ showed a large left 
hemopneumothorax, left ribs ___ fx's, and hepatic free
fluid concerning for liver lac. They placed a left-sided chest 
tube and transferred the patient here for trauma surgery 
evaluation. He was given Tylenol and fentanyl prior to transfer.

 
Past Medical History:
___: PVD, Dementia, prostate ca? some kind of leukemia treated 
in ___, known lesions on pancreas and liver followed at ___ 
___

SHX: ___
Family History:
mother died of colon cancer, father of heart disease
 
Physical Exam:
REVIEW OF SYSTEMS: physical examination upon admission:  ___
 
Constitutional:   Constitutional: No fever, no
chills
Head / Eyes: No head pain
ENT: No neck pain
Resp: +left chest wall tenderness. No cough, dyspnea
Cards: left chest pain
Abd: +LUQ abdominal pain
Flank: No dysuria
Skin: +ecchymosis. No rash
Ext: +left rib fractures. No back pain
Neuro: No headache, No numbness or weakness
Psych: No depression
 
DISCHARGE PHYSICAL EXAM:

GEN: NAD
HEENT: NCAT, EOMI, no scleral icterus
CV: RRR
RESP: breathing comfortably on room air, no respiratory 
distress, mild b/l chest wall TTP, prior L chest tube placement 
C/D/I and appropriately bandaged
GI: soft, non-TTP, no R/G/D, BS+ throughout
EXT: WWP, no peripheral edema
 
Pertinent Results:
___ 06:30AM BLOOD Hct-37.5*
___ 01:20PM BLOOD WBC-8.7 RBC-3.83* Hgb-11.7* Hct-35.6* 
MCV-93 MCH-30.5 MCHC-32.9 RDW-13.5 RDWSD-46.0 Plt ___
___ 01:20PM BLOOD Plt ___
___ 04:41AM BLOOD ___ PTT-28.6 ___
___ 08:00PM BLOOD ___
___ 04:41AM BLOOD Glucose-110* UreaN-18 Creat-1.1 Na-141 
K-4.1 Cl-102 HCO3-27 AnGap-16
___ 08:00PM BLOOD Lipase-28
___ 04:41AM BLOOD Calcium-9.1 Phos-3.1 Mg-1.9

___:  CXR:

No substantial interval change compared to the recent chest 
radiograph.  
Persistent left-sided pneumothorax, likely small to moderate in 
size status post left chest tube placement, though assessment 
for size of this 
pneumothorax is difficult on this supine exam.  Left basilar 
hazy opacity 
likely reflecting a combination of small hemo-thorax and 
atelectasis.  
Re-demonstration of multiple left-sided rib fractures

___:  CT c-spine: 

  
1. No evidence of acute fracture or traumatic mal-alignment. 
2. Partially visualized spiculated lesion in the left lung apex, 
worrisome for neoplasm.  Recommend dedicated chest CT or PET/CT 
for further evaluation once acute traumatic issues have 
resolved. 
3. Partially visualized pneumothorax in the left apex. 
  
RECOMMENDATION(S):  Dedicated chest CT or PET/CT for evaluation 
of the 
partially visualized spiculated lesion in the left lung apex 
once acute 
issues/pneumothorax has resolved. 
  
___:  CT head:

  
1. No acute intracranial hemorrhage or fracture. 
2. Prominent CSF density extra-axial space within the middle 
cranial fossa 
compatible with an arachnoid cyst. 

___:  chest x-ray:

. Interval retraction of the left-sided chest tube such that the 
side port is now in the lateral chest wall soft tissues. 
2. Left apical pneumothorax is grossly unchanged. 
3. Interval increase in left basilar atelectasis with small 
pleural effusion. 
4. Gaseous distention of the stomach.  Consider nasogastric 
decompression.

___:  CXR:

 Left chest tube remains in place, the side port is in the chest 
wall, outside the pleural space as before.  Small left 
pneumothorax is stable. Mild cardiomegaly is stable.  Left lower 
lobe opacities have increased, a 
combination of small effusion and increasing adjacent 
atelectasis.  Left chest wall subcutaneous gas is unchanged.  
Right lower lobe atelectasis have improved. 

___:  chest x-ray:

Interval removal of the left chest tube.  Grossly unchanged 
small left apical pneumothorax.  Unchanged opacities in the left 
lower lobe. 
 
Brief Hospital Course:
___ year old male admitted to the hospital after a fall from a 
chair. Imaging at an outside facility showed a large left 
hemo-pneumothorax, ___ left sided rib fractures, and a liver 
laceration. A left sided chest tube was placed and the patient 
was transferred here for medical management. Cat scan imaging of 
the neck and head showed no fractures. The patient's rib pain 
was controlled with oral analgesia. Upon arrival, the patient 
was made NPO and given intravenous fluids.

The patient underwent daily chest x-rays while the chest tube 
was in place.  His oxygen saturation was closely monitored. The 
chest tube and foley catheter were  removed on HD #3.  Repeat 
chest imaging showed unchanged left apical pneumothorax.  In 
preparation for discharge, the patient was evaluated by physical 
therapy and recommendations made for discharge to a 
rehabilitation center where the patient could regain his 
strength and mobility. 

At the time of discharge, the patient was tolerating a regular 
diet. After some moderate urinary retention noticed on routine 
bladder scans, the patient was able to mobilize urine 
appropriate using his Artificial Urinary Sphincter; the Urology 
team was consulted and the patient will follow up with them at 
___ to for close monitoring. His hematocrit remained stable. 
 The patient was discharged on HD #5 in stable condition.  
Appointments for follow-up were made with the Acute care clinic 
and with his primary care provider.  The patient had no 
additional follow-up with his Vascular surgeon. 

+++++++++++++++++++++++++++++++++++++++++++++++++
Of note, the patient was found to have concerning changes to his 
Left Upper Lobe found on CT imaging this admission. The etiology 
of these pulmonary findings are uncertain; they may be secondary 
to a pulmonary contusion or laceration in light of his recent 
injury or may be more concerning for an underlying malignancy, 
especially when considering his Pancreatic and Hepatic lesions 
that are followed closely by ___. We will be likely be 
unable to differentiate one etiology from another in the acute, 
post-traumatic period and after speaking with our ___ 
radiologists, it is recommended that the patient go for repeat 
Chest CT in 1 month. This was discussed with the daughter and 
son who are undecided about the best course for their father. 
They will consider their father's goals following discharge and 
decide whether they wish to pursue additional imaging at a later 
time. 

CT CHEST
Large 5.5 cm cystic lesion seen in the right middle lobe may be 
of chronic etiology, or less likely, traumatic pneumatocele.  
Large lobulated complex cystic 3.7 cm lesion is seen in the head 
of the pancreas, not completely characterized on this exam but 
possibly concerning for neoplasm.  Further evaluation with an 
MRI is recommended.

Partially visualized spiculated lesion in the left lung apex, 
worrisome for 
neoplasm.  Recommend dedicated chest CT or PET/CT for further 
evaluation once 
acute traumatic issues have resolved 
 
Medications on Admission:
Cilostazol 50 mg BID, ASA 325 mg daily, Fosamax 70 mg weekly, 
caltrate 600 mg BID, vit. D3 1000 units daily, preservision 
lutein 5 mg/0.8 cap. BID.  
 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Lidocaine 5% Patch 1 PTCH TD QAM left sided rib pain  
4.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN pain  
5.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
6.  Senna 8.6 mg PO BID:PRN Constipation  
7.  Alendronate Sodium 70 mg PO QSUN  
8.  Aspirin 325 mg PO DAILY  
9.  Cilostazol 50 mg PO BID  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left Rib Fractures ___ with Associated Hemo-Pneumothorax
Grade I Liver Laceration

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___, 

___ were admitted to the Acute Care Surgery service at the ___ 
___ for management of your injuries 
sustained from a fall. ___ injuries include several left sided 
rib fractures, a hemo/pneumothorax requiring Chest Tube 
replacement and a small traumatic laceration to your liver. Your 
CT scans also demonstrated several incidental findings including 
cysts in your pancreas and a liver mass. These are being managed 
by your Oncologist at ___.

___ were also found to have some concerning changes to your 
upper left lung found on your traumatic workup. The specific 
cause of this finding has yet to be determined; it may be 
secondary to lung injuries from your recent fall or could 
represent something more concerning like a new mass. We 
recommend that this image be re-evaluated with another CT scan 
in 1 month. With spoke with your family about the utility and 
implications of this scan and ___ will discuss your ultimate 
desires with your family prior to receiving this study. It will 
also be important for ___ to discuss this scan with your doctors 
at ___. 

Your chest tube has been removed, ___ have demonstrated an 
appropriate respiratory status, your pain is controlled and ___ 
are ready to be discharged to rehab to continue your recovery. 
Please see the following instructions regarding your recovery. 

Regarding your respiratory status, ___ should continue to use 
your Incentive Spirometer 10 times per hour, even at rehab. ___ 
will slowly regain your strength but should be up and walking at 
least 3 times per day. 

The dressing overlying your former chest tube site can be 
removed on ___. Until then, ___ may shower, let the water 
run over the bandage and pat the area dry. After ___ remove the 
clear dressing, ___ may place a dry gauze or a Band-Aid over the 
small defect. 

Please take all of the medications as ___ were taking them prior 
to this hospitalization unless instructed otherwise. Please 
continue to use your Artificial Urinary Sphincter as ___ were 
prior to this admission and ask for help if ___ are unable to 
use this yourself. 

Good Luck
 
Followup Instructions:
___